US07915267B2
5-methyl-4-oxo-N-({3-[(1H-1,2,4-triazol-3-ylcarbonyl)amino]phenyl}methyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide
By a method similar to that in Step 2 of Example 32 and using, instead of 6-cyano-4-oxo-N-{[3-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoyl}amino)phenyl]methyl}-3,4-dihydroquinazoline-2-carboxamide, 5-methyl-4-oxo-N-{[3-({[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]carbonyl}amino)phenyl]methyl}-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide, the title compound was obtained as a white powder (339 mg, 99%).

reactant | 6-cyano-4-oxo-N-{[3-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoyl}amino)phenyl]methyl}-3,4-dihydroquinazoline-2-carboxamide | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)NCC1=CC(=CC=C1)NC(CCC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C41H32N8O3
reactant | 5-methyl-4-oxo-N-{[3-({[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]carbonyl}amino)phenyl]methyl}-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | CC1=CSC=2N=C(NC(C21)=O)C(=O)NCC2=CC(=CC=C2)NC(=O)C2=NN(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H29N7O3S
product | 5-methyl-4-oxo-N-({3-[(1H-1,2,4-triazol-3-ylcarbonyl)amino]phenyl}methyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | CC1=CSC=2N=C(NC(C21)=O)C(=O)NCC2=CC(=CC=C2)NC(=O)C2=NNC=N2 | C18H15N7O3S
